data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O:21]CC.CC(C)(CC#N)[O-:10]>>[H:20][O:10]C(C)(C)CC#N.CC[O-:21] 10=20;20,21=21
[H:20][N+:21]1(CCCC1)C2(CC3=C(C2)C=CC=C3)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.C1CC[N:21](C1)C2(CC3=C(C2)C=CC=C3)O 10=20;20,21=21
CC[CH:20]([NH+:21](C)C)[O:10]CC>>CC[CH:20]=[O+:10]CC.C[NH:21]C 10=20;20,21=21
[H:20][OH+:21]C.C1COC23C1CC(O2)C(=[O:10])C4=C3C=CC=C4>>[H:20][O+:10]=C1C2CC3CCOC3(O2)C4=C1C=CC=C4.C[OH:21] 10=20;20,21=21
[H:20][CH:21](C(=CC=C(C=O)SCC[Si](C)(C)C)SCC[Si](C)(C)C)[O:22][I+:23]1(C2=C(C=CC=C2)C(=O)O1)OC(=O)C.CC(=O)[O-:10].CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.C[Si](C)(C)CCSC(=CC=C(C=O)SCC[Si](C)(C)C)[CH:21]=[O:22].[H:20][O:10]C(=O)C.CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10=20;22,23=23;20,21=21,22
[B:20](F)(F)F.CCCOC(=[O:10])C>>[B-:20]([O+:10]=C(C)OCCC)(F)(F)F 10=20,
[B-]([OH+:21][CH:20](C1=CC=CC=C1)[C:11]2([CH2:10]C2CCCC)[OH:12])(F)(F)F>>[B-]([OH:21])(F)(F)F.CCCCC1[CH2:10][CH:20]([C:11]1=[OH+:12])C2=CC=CC=C2 10,11=10,20;20,21=21;12=11
CC(C)O[Al-:10](OC1CC2C3(CCCC(C3C(C24CC1C(=C)C4)C(=O)OC)(C)C(=O)OC)C)(OC(C)C)[O+:11]=C(C)C.CC(C)O>>CC(C)O[Al:10](OC1CC2C3(CCCC(C3C(C24CC1C(=C)C4)C(=O)OC)(C)C(=O)OC)C)OC(C)C.CC(=[O:11])C.CC(C)O 10,11=11
[H:20][C:21]([C:22]1=[N+:23](N=C2N1CCC2)C3=C(C(=C(C(=C3F)F)F)F)F)(C(=O)OCC)O.CC[N:10](CC)CC.[B-](F)(F)(F)F.C1OC2=C(O1)C=C(C=C2)C=CC(=O)C3=C(C=CC=C3)F>>[H:20][N+:10](CC)(CC)CC.CCOC(=O)[C:21](=[C:22]1N2CCCC2=N[N:23]1C3=C(C(=C(C(=C3F)F)F)F)F)O.[B-](F)(F)(F)F.C1OC2=C(O1)C=C(C=C2)C=CC(=O)C3=C(C=CC=C3)F 10=20;22,23=23;20,21=21,22
CC[Sn-](CC)(CC)([O+:11](C(CC=C)C1=CC=CC=C1)[Zn-:10](Cl)Cl)Cl>>CC[Sn-](CC)(CC)([O:11]C(CC=C)C1=CC=CC=C1)Cl.Cl[Zn:10]Cl 10,11=11
[H:20][NH+:21](C1(C2=C(C=CC=C2)C(=O)N1CCCC3=CN4C=CC=C4C(=O)N3C)[O-])N.N[NH2:10].O.[Cl-].[K+]>>[H:20][NH2+:10]N.CN1C(=CN2C=CC=C2C1=O)CCCN3C(=O)C4=C(C3([NH:21]N)[O-])C=CC=C4.O.[Cl-].[K+] 10=20;20,21=21
CC1CC2CCC(C1O[C:20]2([O-:10])[O:21]C)C(=O)OC>>CC1CC2CCC(C1O[C:20]2=[O:10])C(=O)OC.C[O-:21] 10=20;20,21=21
CC(=O)O[I+:20]1(C2=CC=CC=C2C(=O)O1)OC(=O)C.C[Si](C)(C)CCSC(=CC=C(CO)SCC[Si](C)(C)C)C[OH:10].CC(=O)[O-]>>CC(=O)O[I:20]1(C2=CC=CC=C2C(=O)O1)([OH+:10]CC(=CC=C(CO)SCC[Si](C)(C)C)SCC[Si](C)(C)C)OC(=O)C.CC(=O)[O-] 10=20,
C[C:11](=[C:10]1[C:20](N=NN1C2=CC=CC=C2)(C)[OH:21])[O-:12].C1CCC2=[NH+]CCCN2CC1>>C[C:20]1=[C:10](N(N=N1)C2=CC=CC=C2)[C:11](=[O:12])C.[OH-:21].C1CCC2=[NH+]CCCN2CC1 10,11=10,20;20,21=21;12=11
CC[Si]1(C(C(CC(O1)C2=CC=CC=C2)O[Si](C)(C)C)[CH+:20][CH2:10][Si-:11](C)(C)(C)OS(=O)(=O)C(F)(F)F)CC>>CC[Si]1(C(C(CC(O1)C2=CC=CC=C2)O[Si](C)(C)C)[CH:20]=[CH2:10])CC.C[Si:11](C)(C)OS(=O)(=O)C(F)(F)F 10,11=10,20
[H:20][CH:21](C(C=CCCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)[C:22](=[O:23])CCCC.CC[OH:10]>>[H:20][OH+:10]CC.CCCC[C:22](=[CH:21]C(C=CCCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)[O-:23] 10=20;22,23=23;20,21=21,22
CN[C+:20](NC)[OH:10]>>CN[C:20](=[OH+:10])NC 10=20,
C[C:10]1(CCC[OH+:11]1)C.[Cl-].[Br-]>>C[C+:10](C)CCC[OH:11].[Cl-].[Br-] 10,11=11
CC(=O)[O:11][Si-:10](C)(C)(C)OC>>CC(=O)[O-:11].CO[Si:10](C)(C)C 10,11=11
CC[NH:10]CC.[CH3:20][I:21]>>CC[NH+:10]([CH3:20])CC.[I-:21] 10=20;20,21=21
CC1=CC=C(C=C1)C(=O)[O-:10].C[Si:20](C)(C)C([Si](C)(C)C)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>CC1=CC=C(C=C1)C(=O)[O:10][Si-:20](C)(C)(C)C([Si](C)(C)C)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4 10=20,
CC1=CC=C(N1)C2=CC(=CC(=C2)[C:20](=[O:21])CC=C(C)[NH2:10])C3=CC=C(N3)C.CC(=O)O.C(=O)[O-].O>>CC1=CC[C:20]([NH2+:10]1)(C2=CC(=CC(=C2)C3=CC=C(N3)C)C4=CC=C(N4)C)[O-:21].CC(=O)O.C(=O)[O-].O 10=20;20,21=21
CC(C)[O:10][C:20](C)(C)[Br:21]>>CC(C)[O+:10]=[C:20](C)C.[Br-:21] 10=20;20,21=21
[H:20][CH:21](CO)[CH:22]=[OH+:23].[OH2:10]>>[H:20][OH2+:10].C([CH:21]=[CH:22][OH:23])O 10=20;22,23=23;20,21=21,22
[H:20][CH:21]1[C:22](=[O:23])NC(=O)CN1C.C(=[O:10])N>>[H:20][O+:10]=CN.CN1CC(=O)N[C:22](=[CH:21]1)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(CC2=C3CCC4COC(=O)C4(C3CCC2(OC1C(=C)C)C)C)[O:22][I+:23]5(C6=C(C=CC=C6)C(=O)O5)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC(=C)C1[C:21](=[O:22])CC2=C3CCC4COC(=O)C4(C3CCC2(O1)C)C.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.CC(=O)O 10=20;22,23=23;20,21=21,22
CCOC(=O)C(C1=CC=CC=C1)NC(=O)CC(=N[OH:10])N.C[S:20](=O)(=[O:21])Cl.C1=CC=NC=C1>>CCOC(=O)C(C1=CC=CC=C1)NC(=O)CC(=N[OH+:10][S:20](=O)(C)([O-:21])Cl)N.C1=CC=NC=C1 10=20;20,21=21
CCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)CC(C)C)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)CC(C)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1([CH:22]=[N+:23](C2CCCC1(C2)C3=CC=CC(=C3OC)O)CC4=CC=CC=C4)Br.CC(=O)[NH-:10]>>[H:20][NH:10]C(=O)C.COC1=C(C=CC=C1C23CCCC(C2)[N:23]([CH:22]=[C:21]3Br)CC4=CC=CC=C4)O 10=20;22,23=23;20,21=21,22
C[CH+:20]C.C[C:11]1=[CH:10]C2=C(C=CC=C2)C=C1>>C[C+:11]1C=CC2=C([CH:10]1[CH:20](C)C)C=CC=C2 10,11=10,20
[H:20][CH:21]1C(CC[C:22]1=[O:23])O.[OH-:10]>>[H:20][OH:10].C1C[C:22](=[CH:21]C1O)[O-:23] 10=20;22,23=23;20,21=21,22
